US05612356
Methyl 3-(3,5-diisopropylbenzoyl)propionate
14.1 g of Methyl 3-[3,5-diisopropyl-4-(1-phenyltetrazol-5-yloxy)benzoyl]propionate was dissolved in 100 ml of benzene, followed by the addition of 10 g of 10% palladium/carbon. The obtained mixture was subjected to hydrogenation under a pressure of 3 kg/cm2, at room temperature for 14 hours. The reaction mixture thus obtained was filtered to remove the catalyst. The filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (developer: 3% ethyl acetate/n-hexane) to give 6.4 g of the title compound as a colorless oil.

reactant | Methyl 3-[3,5-diisopropyl-4-(1-phenyltetrazol-5-yloxy)benzoyl]propionate | 14.1 g | C(C)(C)C=1C=C(C(=O)CCC(=O)OC)C=C(C1OC1=NN=NN1C1=CC=CC=C1)C(C)C | C24H28N4O4
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
catalyst | palladium/carbon | 10 g | [Pd] | Pd
product | Methyl 3-(3,5-diisopropylbenzoyl)propionate | 6.4 g | C(C)(C)C=1C=C(C(=O)CCC(=O)OC)C=C(C1)C(C)C | C17H24O3
